US05308854
Step A: Preparation of 3-cyano-5-butyl-6-methylpyridin-2(1H)-one
According to the method described in J. Heterocyclic Chem., 24, 351 (1987), a mixture of crude sodium 2-butyl-3-oxobutanal (7.39 g), cyanoacetamide (4.15 g, 39 mmol), aqueous piperidinum acetate (3.5 mL) [prepared from glacial acetic acid (0.85 ml), water (2.0 mL) and piperidine (1.45 ml)] in water (32 mL) was refluxed for 3 hours. Acetic acid (2.5 mL) was cautiously added. After cooling to room temperature and stirring overnight, the precipitated solids were collected by filtration. These residues (2.87 g) was chromatographed on silica gel by gradient elution with 1-3% methanol/ethyl acetate. The appropriate fractions were combined and evaporated. Crystallization from methanol gave 1.01 g of pure product.

reactant | sodium 2-butyl-3-oxobutanal | 7.39 g | C(CCC)C(C=O)C(C)=O.[Na]
reactant | cyanoacetamide | 39 mmol, 4.15 g | C(#N)CC(=O)N | C3H4N2O
reactant | acetate | 3.5 mL | C(C)(=O)[O-]
reactant | Acetic acid | 2.5 mL | C(C)(=O)O | C2H4O2
solvent | water | 32 mL | O | H2O
product | 3-cyano-5-butyl-6-methylpyridin-2(1H)-one | 1.01 g | C(#N)C=1C(NC(=C(C1)CCCC)C)=O | C11H14N2O
